*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/CH(-55to125[deg])/1.50e-04[uF]/100[V]
* Murata P/N :GCM2162C2A151JA01
* Property : C = 1.50e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-9[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2162C2A151JA01 Port1 Port2
C01 Port1 N01 1.50e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 1.59e-10
R03 N02 N03 8.00e-02
C04 N03 N04 4.49e-10
L04 N03 N04 1.99e-11
R04 N03 N04 9.28e-01
C05 N04 N05 9.50e-11
L05 N04 N05 2.95e-11
R05 N04 N05 1.98e+00
C06 N05 N06 2.92e-11
L06 N05 N06 2.29e-11
R06 N05 N06 2.13e+00
C07 N06 N07 3.38e-12
L07 N06 N07 1.04e-10
R07 N06 N07 3.91e+01
C08 N07 Port2 2.11e-12
L08 N07 Port2 1.53e-10
R08 N07 Port2 1.00e+05
.ENDS GCM2162C2A151JA01
